US07067658B2
[4-(2,4-Dichloro-phenyl)-3-nitro-pyridin-2-yl]-(1,2-dimethyl-propyl)-amine (0.26 g, 0.74 mmol) and Na2S2O4 (1.03 g, 5.94 mmol) were treated substantially as described in Part E of Example 9 to yield 0.18 g (75%) of crude 4-(2,4-dichloro-phenyl)-N2-(1,2-dimethyl-propyl)-pyridine-2,3-diamine: MS (AP) m/z 324.3 [(M+H)+, 70].

reactant | [4-(2,4-Dichloro-phenyl)-3-nitro-pyridin-2-yl]-(1,2-dimethyl-propyl)-amine | 0.74 mmol, 0.26 g | ClC1=C(C=CC(=C1)Cl)C1=C(C(=NC=C1)NC(C(C)C)C)[N+](=O)[O-] | C16H17Cl2N3O2
reactant | Na2S2O4 | 5.94 mmol, 1.03 g | [O-]S(=O)S(=O)[O-].[Na+].[Na+]
product | 4-(2,4-dichloro-phenyl)-N2-(1,2-dimethyl-propyl)-pyridine-2,3-diamine | 0.18 g, 75% | ClC1=C(C=CC(=C1)Cl)C1=C(C(=NC=C1)NC(C(C)C)C)N | C16H19Cl2N3
